US08486962B2
A solution of 1-(2-methoxy-5-nitro-phenyl)-ethanone (350 mg, 1.8 mmol) in methanol (20 ml) was hydrogenated over 10% Pd—C (70 mg) at atmospheric pressure until no further absorption of gas took place. The reaction mixture was then filtered over celite and the filtrate concentrated under reduced pressure to give 1-(5-amino-2-methoxy-phenyl)-ethanone (250 mg, 85%) as a solid.

reactant | 1-(2-methoxy-5-nitro-phenyl)-ethanone | 1.8 mmol, 350 mg | COC1=C(C=C(C=C1)[N+](=O)[O-])C(C)=O | C9H9NO4
solvent | methanol | 20 ml | CO | CH4O
catalyst | Pd—C | 70 mg | [Pd] | Pd
product | 1-(5-amino-2-methoxy-phenyl)-ethanone | 250 mg, 85% | NC=1C=CC(=C(C1)C(C)=O)OC | C9H11NO2
